US07109186B2
Compound 768: 4-Hydroxy-1-[1-hydroxymethyl-2-(1H-indol-3-yl)-ethyl]-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide
Compound 768 was prepared from N-(3,4-dichloro-benzyl)-2-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-methyl-acetamide, paraformaldehyde and 2-amino-3-(1H-indol-3-yl)-propan-1-ol according to the procedures described for compound 86-A and compound 767. The title compound was isolated as a yellow solid (0.0038 g, 8% yield). 1HNMR (300 MHz, CDCl3) δ: 7.52 (1H, d, J=8.05 Hz), 7.36–7.29 (3H, m), 7.14–6.98 (4H, m), 4.46 (2H, s), 4.40–4.36 (1H, m), 3.99 (2H, s), 3.81–3.78 (2H, m), 3.11–3.08 (3H, m), 2.85 (3H, s).

reactant | N-(3,4-dichloro-benzyl)-2-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-methyl-acetamide | ClC=1C=C(CN(C(C=C2OC(OC2=O)(C)C)=O)C)C=CC1Cl | C15H15Cl2NO4
reactant | paraformaldehyde | C=O | CH2O
reactant | 2-amino-3-(1H-indol-3-yl)-propan-1-ol | NC(CO)CC1=CNC2=CC=CC=C12 | C11H14N2O
product | 4-Hydroxy-1-[1-hydroxymethyl-2-(1H-indol-3-yl)-ethyl]-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide | ClC=1C=C(CN(C(=O)C=2CN(C(C2O)=O)C(CC2=CNC3=CC=CC=C23)CO)C)C=CC1Cl | C24H23Cl2N3O4
